US08937078B2
Step C: Preparation of 1-[6-(naphthalen-1-yloxy)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid.
A mixture of 1-[6-(naphthalen-1-yloxy)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.42 g, 0.99 mmol), 1M aq. KOH (5.0 mL) and THF (5.0 mL) was stirred for 4 h. The mixture was concentrated to remove the THF and the aqueous residue was acidified to pH 2 with 1M aq. HCl. The resulting precipitate was collected by filtration to provide the titled compound (0.34 g, 86%). MS (ESI): mass calcd. for C22H14N4O4, 398.1; m/z found, 399.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 12.99 (s, 1H), 12.86 (s, 1H), 8.94 (s, 1H), 8.24 (s, 1H), 8.06 (d, J=8.1 Hz, 1H), 8.02 (d, J=8.3 Hz, 1H), 7.87 (d, J=8.2 Hz, 1H), 7.78 (d, J=8.2 Hz, 1H), 7.71 (dd, J=8.9, 2.9 Hz, 1H), 7.62 (t, J=7.5 Hz, 1H), 7.60-7.54 (m, 2H), 7.38 (s, 1H), 7.24 (d, J=7.4 Hz, 1H).

reactant | 1-[6-(naphthalen-1-yloxy)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.99 mmol, 0.42 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)OC1=CC=CC2=CC=CC=C12 | C24H18N4O4
reactant | KOH | 1M, 5.0 mL | [OH-].[K+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-[6-(naphthalen-1-yloxy)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid | 0.34 g, 86% | C1(=CC=CC2=CC=CC=C12)OC=1C=C2C(NC(=NC2=CC1)N1N=CC(=C1)C(=O)O)=O | C22H14N4O4
